US04261997
Method A: 4,9-Dihydro-4-methyl-9-oxo-pyrazolo-[5,1-b]-quinazoline-2-carboxylic Acid, Ethyl Ester.
A stirred suspension of 5.3 g of a 50% mineral oil dispersion of sodium hydride in 30 ml of dimethylformamide is treated dropwise at -10° C., under a nitrogen atmosphere, with a solution of 15.6 g of 5-oxo-2-pyrazoline-3-carboxylic acid, ethyl ester, in 65 ml of dimethylformamide. After the evolution of hydrogen ceases, the mixture is stirred for 2 hours while allowing the temperature to rise to +10° C. The mixture is recooled to -10° C. and treated dropwise, with stirring, with a solution of 21.6 g of 90% N-methylisatoic anhydride in 150 ml of dimethylformamide, then stirred for 18 hours while allowing the temperature to rise to 20°-25° C. The mixture is heated at 90° C. for 1 hour, cooled and poured into 3 liters of ice water containing 10 ml of concentrated hydrochloric acid (final pH about 5). The resulting precipitate is collected by filtration and the filtrate is extracted several times with 600 ml portions of dichloromethane. The precipitate is dissolved in 1 liter of dichloromethane and the solution is combined with the above dichloromethane extracts. The combined dichloromethane solution is washed with water, dried and evaporated. The residual oil is triturated with methanol and the resulting solid is collected, dissolved in tetrahydrofuran and the solution is decolorized by passage through an activated magnesium silicate column (Florisil R). The filtrate is concentrated to a small volume, diluted with ethanol and chilled. The resulting crystalline precipitate of 4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid, ethyl ester is collected by filtration; mp 239°-241° C., after recrystallization from dichloromethane/ethanol.

reactant | sodium hydride | [H-].[Na+]
reactant | 5-oxo-2-pyrazoline-3-carboxylic acid, ethyl ester | 15.6 g | O=C1CC(=NN1)C(=O)OCC | C6H8N2O3
reactant | hydrogen | [H][H] | H2
reactant | N-methylisatoic anhydride | 21.6 g | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 4,9-Dihydro-4-methyl-9-oxo-pyrazolo-[5,1-b]-quinazoline-2-carboxylic Acid, Ethyl Ester | CN1C=2N(C(C=3C=CC=CC13)=O)N=C(C2)C(=O)OCC | C14H13N3O3
